Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
arm erythema
 
Major Surgical or Invasive Procedure:
LUE abscess I&D

 
History of Present Illness:
 Ms ___ is a pleasant ___ woman with a history of 
diabetes, last HbA1c 6.8%, presented to the emergency department 
with arm erythema. Patient removed an insulin pouch on ___ and 
subsequently noticed purulent, white discharge. On ___, she 
followed up with her primary care physician who noticed ___ 3 cm 
radius of erythema in the area, patient was started on Keflex. 
On ___, she was reassessed and the erythema was noted to be 
expanding to radius of 9 cm and the rash was marked, at which 
time Bactrim was added.  She presented to ___ today at which 
time the decision was made to admit her given worsening 
errythema.  She denies any fever/chills but does endorse general 
malaise and diaphoresis.  

In the ED, initial vitals were:98.01 96 128/81 18 100% RA.  She 
was noted to have an abscess on her right posterior arm on the 
tricep, with drainage and 25 cm radius of erythema.  US showed 
drainable pocket.  Labs were unremarkable.  Abscess was I&D'd 
and packed and she was started on vancomycin prior to transfer 
to the floor.  She subsequently developed a non itchy rash on 
her L distal arm, which appears to be hives based on picture 
shown to me.  She was therefore started on Benadryl.  She was 
also given ibuprofen and vanc as well as a 1 L fluid bolus.

On the floor, c/o pain at insulin pod site.  Rash on L arm 
resolved.  She states that her sugars have been well controlled. 
 She tells me she recently decided she is not going to continue 
insulin pump and was therefore switched to tresiba by her ___ 
MD.  ___ took 25 units of this at noon and planned to continue 
25 units starting in AM.  Denies throat swelling, difficulty 
breathing, does endorse pain in the back of her arm and diarrhea 
when she started abx however this has since resolved.  

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 10 
pt ros otherwise negative.
 
Past Medical History:
T1DM
ADHD
 
Social History:
___
Family History:
Father with type 2 DM, htn in both parents, ovarian ca. 
 
Physical Exam:
Vitals: 98.3 ___
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
Neck: Supple
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no visible rash on L forearm currently, prior picture 
shows erythematous, circular lesions.  R proximal arm with 
approx. 10 cm of erythema, outlined, no fluctuance, dressing in 
place.

Discharge exam
Vitals: Afebrile and stable (see Eflowsheets)
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
Neck: Supple
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: LUE erythema significantly receded from marked border, 
packing in place with small amount of dried blood

 
Pertinent Results:
___ 04:38PM   LACTATE-2.0
___ 04:20PM   GLUCOSE-142* UREA N-8 CREAT-0.7 SODIUM-136 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-21* ANION GAP-14
___ 04:20PM   estGFR-Using this
___ 04:20PM   WBC-9.6 RBC-4.32 HGB-12.7 HCT-38.7 MCV-90 
MCH-29.4 MCHC-32.8 RDW-12.2 RDWSD-40.0
___ 04:20PM   NEUTS-58.3 ___ MONOS-5.7 EOS-4.4 
BASOS-0.4 IM ___ AbsNeut-5.57 AbsLymp-2.95 AbsMono-0.54 
AbsEos-0.42 AbsBaso-0.04
___ 04:20PM   PLT COUNT-333

BCx ___ - NGTD
 
Brief Hospital Course:
Pleasant ___ yo F with well controlled T1DM, admitted with 
abscess and cellulitis.  

# abscess/cellulitis: currently stable with no systemic sxs.  
Developed hives with vanco, will therefore not re-challenge.  No 
cxs sent from I&D. She received a dose of daptomycin with 
significant improvement in cellulitis. She was transitioned to 
doxycycline 100 mg q12h to complete a 7 day course. Patient was 
given instructions to removed packing from I&D site after 48 
hours then cover with sterile gauze daily. 

# T1DM: pt is very diligent with sugar control.  Has correction 
factor of 1:6 for carbs, sensitivity factor of 1:25.  Plan for 
pump holiday given infx. She was continued on Tresiba 25 U q AM 
and Humalog sliding scale with good glycemic control. 

# Anxiety: cont Prozac, Ativan

# ADHD: continue vyvanse

Transitional care issues
-monitor for recurrence of cellulitis on doxy

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. tresiba 25 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
2. Vyvanse (lisdexamfetamine) 60 mg oral DAILY 
3. FLUoxetine 40 mg PO DAILY 
4. LORazepam 0.5 mg PO DAILY:PRN anxiety, insomnia 
5. Loryna (28) (drospirenone-ethinyl estradiol) ___ mg oral 
DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Doxycycline Hyclate 100 mg PO Q12H Duration: 11 Doses 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every 12 
hours Disp #*11 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate  
4.  tresiba 25 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
5.  FLUoxetine 40 mg PO DAILY  
6.  LORazepam 0.5 mg PO DAILY:PRN anxiety, insomnia  
7.  Loryna (28) (drospirenone-ethinyl estradiol) ___ mg oral 
DAILY  
8.  Vyvanse (lisdexamfetamine) 60 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left upper extremity abscess
Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for an abscess and skin infection. You had an 
incision and drainage and briefly received IV antibiotics with 
improvement in your infection. You will complete another 6 days 
of oral antibiotics after you are discharged. The packing should 
stay in for another 24 hours then can be taken out. After that, 
keep the area clean and dry with gauze bandages which you should 
change daily. 
 
Followup Instructions:
___